US09193719B2
To a 0° C. solution of 1-trifluoromethyl-1-cyclobutylcarboxylic acid (1.50 g, 8.92 mmol) in DCM (15 mL) was added oxalyl chloride (1.50 g, 11.82 mmol) followed by catalytic amount of DMF. The reaction mixture was stirred at RT for 1 h. The solvent from the reaction mixture was completely evaporated. In a different flask, a suspension of semicarbazide hydrochloride (1.50 g, 13.45 mmol) in water (15 mL) was treated with NaHCO3 (1.50 g, 17.86 mmol) and stirred at RT for 30 minutes till a clear solution forms. To this solution was added the above acid chloride dissolved in EtOAc (20 mL) and the resultant mixture was stirred at RT over night. The organic layer was separated and the aqueous layer was extracted with DCM (2×10 mL). The combined organics were concentrated and the residue was treated with sodium hydroxide (1.50 g, 37.5 mmol) in water (15 mL), heated at 100° C. for 3 h, and stirred for 20 h at RT. The reaction mixture was acidified with conc. HCl to pH 1 and stirred at RT for 1 h. The reaction mixture was concentrated to a small volume under high vacuum and diluted with MeOH. The separated solids were filtered and washed with methanol. The filtrate was evaporated and further dried by azeotropic distillation from toluene to provide 5-(1-(trifluoromethyl)cyclobutyl)-2,4-dihydro-3H-1,2,4-triazol-3-one (1.05 g, 57%) as a light brownish residue, suitable for use without further purification. MS (ESI) m/z: 208.1 (M+H+).

reactant | 1-trifluoromethyl-1-cyclobutylcarboxylic acid | 8.92 mmol, 1.50 g | FC(C1(CCC1)C(=O)O)(F)F | C6H7F3O2
reactant | oxalyl chloride | 11.82 mmol, 1.50 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | semicarbazide hydrochloride | 13.45 mmol, 1.50 g | Cl.NNC(=O)N
reactant | NaHCO3 | 17.86 mmol, 1.50 g | C(=O)(O)[O-].[Na+]
reactant | sodium hydroxide | 37.5 mmol, 1.50 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(1-(trifluoromethyl)cyclobutyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.05 g, 57% | FC(C1(CCC1)C=1NC(NN1)=O)(F)F | C7H8F3N3O
